US08044061B2
Preparation of 8-(3,4-Dimethoxyphenylethynyl)-3-ethyl-7-methyl-3,7-dihydropurine-2,6-dione
To a solution of 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-3,7-dihydro-purine-2,6-dione (1.52 g, 4.4 mmol) in 10 ml of dimethylformamide (DMF) was added triethylamine (3 ml, 20 mmol) and dimethylsulfate (0.65 ml, 7 mmol). The mixture was stirred at room temperature for 0.5 h. The product was precipitated by addind water (40 ml), filtered under reduced pressure, washed with water and dried at 70° C. (310 mg, 20%).

reactant | 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-3,7-dihydro-purine-2,6-dione | 4.4 mmol, 1.52 g | COC=1C=C(C=CC1OC)C#CC1=NC=2N(C(NC(C2N1)=O)=O)CC | C17H16N4O4
reactant | triethylamine | 20 mmol, 3 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfate | 7 mmol, 0.65 ml | COS(=O)(=O)OC | C2H6O4S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 8-(3,4-Dimethoxyphenylethynyl)-3-ethyl-7-methyl-3,7-dihydropurine-2,6-dione | COC=1C=C(C=CC1OC)C#CC1=NC=2N(C(NC(C2N1C)=O)=O)CC | C18H18N4O4
